US06468998B1
1-Cyclohexyl-1-cyclopentanecarboxylic acid and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-cyclohexyl-1-cyclopentanecarboxamide.

reactant | 1-Cyclohexyl-1-cyclopentanecarboxylic acid | C1(CCCCC1)C1(CCCC1)C(=O)O | C12H20O2
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-cyclohexyl-1-cyclopentanecarboxamide | FC1=CC=C(C=C1)CCN1C[C@H](CC1)NC(=O)C1(CCCC1)C1CCCCC1 | C24H35FN2O
